US06503949B1
1-Nitro-4-hydroxy-2-trifluromethylbenzene (5.0 g, 14 mmol) and cyclopropylcarbinol (1.75 g, 24 mmol) were dissolved in THF (20 mL) under nitrogen. Triphenylphosphine (9.5 g, 36 mmol) was added and diethyl azodicarboxylate (5.7 mL, 36 mmol) dissolved in THF (10 mL) was added over 30 minutes. The reaction mixture was stirred at 20° C. for 16 hours and then concentrated in vacuo. The residue was dissolved in ethyl acetate (25 mL) and heptane (40 mL). The mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography (350 g silica) using heptane and ethyl acetate (9:1) as eluent to give 1.4 g of 4-cyclopropylmethoxy-1-nitro-2-trifluoromethylbenzene.

reactant | 1-Nitro-4-hydroxy-2-trifluromethylbenzene | 14 mmol, 5.0 g | [N+](=O)([O-])C1=C(C=C(C=C1)O)C(F)(F)F | C7H4F3NO3
reactant | cyclopropylcarbinol | 24 mmol, 1.75 g | C1(CC1)CO | C4H8O
reactant | Triphenylphosphine | 36 mmol, 9.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 36 mmol, 5.7 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-cyclopropylmethoxy-1-nitro-2-trifluoromethylbenzene | 1.4 g | C1(CC1)COC1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C11H10F3NO3
